US04195021
2-(3-Phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-2-butenoic acid
Benzhydryl 2-(3-phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-2-butenoate (100 mg) was dissolved in a mixture of 2 ml of anisole and 1 ml of trifluoroacetic acid at 0°. After 10 minutes 50 ml of hexane was added. The residue obtained by evaporating the solution in vacuo to dryness was taken up in ethyl acetate and the resulting solution was layered with water. After the pH of the aqueous layer was adjusted to 8.5, the aqueous layer was separated and layered with ethyl acetate. The pH of the aqueous layer was then adjusted to 2.5. The organic layer was separated, dried and evaporated to dryness in vacuo to provide 23 mg of the title product: nmr (CDCl3) δ 1.98 (s, 3, CH3), 2.17 (s, 3, CH3), 3.60 (m, 2, C4 --H), 4.98 (m, 1, C3 --H), 4.60 (s, 2, --OCH2CO), and 7.2 (b, 5, ArH).

reactant | Benzhydryl 2-(3-phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-2-butenoate | 100 mg | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(C)C)=O | C29H28N2O5
reactant | hexane | 50 ml | CCCCCC | C6H14
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(3-Phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-2-butenoic acid | 23 mg | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1)C(C(=O)O)=C(C)C)=O | C16H18N2O5
